US08183380B2
Step A: 8-Cyclopropyl-8-aza-bicyclo[3.2.1]octan-3-one oxime:
A mixture of 8-cyclopropyl-8-aza-bicyclo[3.2.1]octan-3-one (CAS no: 60206-33-9) (17.86 g, 108.08 mmol) in ethanol (500 mL) with pyridine (13.05 mL, 162.1 mmol) and hydroxylamine hydrochloride (9.764 g, 140.51 mmol) was refluxed overnight. Cooled to 23° C., filtered off, washed with ethanol and ether and dried in vacuum to give a white solid, which was suspended in 200 mL sat. Na2CO3 solution and extracted 3 times with dichloromethane, the combined organic layers were dried over Na2SO4, filtered off and evaporated totally, dried in high vacuum to give the title compound as white crystals (16.3 g, 84%); MS: m/e=181.2 (M+H+).

reactant | 8-cyclopropyl-8-aza-bicyclo[3.2.1]octan-3-one | C1(CC1)N1C2CC(CC1CC2)=O | C10H15NO
reactant | pyridine | 162.1 mmol, 13.05 mL | N1=CC=CC=C1 | C5H5N
reactant | hydroxylamine hydrochloride | 140.51 mmol, 9.764 g | Cl.NO
solvent | ethanol | 500 mL | C(C)O | C2H6O
solvent | Na2CO3 | 200 mL | C(=O)([O-])[O-].[Na+].[Na+]
product | 8-Cyclopropyl-8-aza-bicyclo[3.2.1]octan-3-one oxime | 16.3 g, 84% | C1(CC1)N1C2CC(CC1CC2)=NO | C10H16N2O
